US05929094
Step F: 4-Bromo-2-methyl-6-(5-trifluoromethyl-tetrazol-1-yl)-benzooxazole
Compound was prepared according to the procedure given in Example 6, Step F (b & c) using 4-bromo-2-methyl-6-amino-benzooxazole in place of 2-Bromo-4-(trifluoroacetamido)anisole and 2-Bromo-4-(5-(trifluoromethyl)tetrazol-1-yl)anisole.

reactant | 4-bromo-2-methyl-6-amino-benzooxazole | BrC1=CC(=CC2=C1N=C(O2)C)N | C8H7BrN2O
reactant | 2-Bromo-4-(5-(trifluoromethyl)tetrazol-1-yl)anisole | BrC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC | C9H6BrF3N4O
product | 4-Bromo-2-methyl-6-(5-trifluoromethyl-tetrazol-1-yl)-benzooxazole | BrC1=CC(=CC2=C1N=C(O2)C)N2N=NN=C2C(F)(F)F | C10H5BrF3N5O
